US04820705
6-(2-Benzenesulphonamido-indan-5-yl)-4,5-dihydropyridazin-3(2H)-one
3.0 g (8 mmol) of 4-(2-benzenesulphonamido-indan-5-yl)-4-oxobutyric acid and 0.53 g (10.4 mmol) of 99% hydrazine hydrate in 12 ml of glacial acetic acid are boiled for 3 hours. The mixture is evaporated in vacuo, water is added to the residue, which is neutralised with sodium carbonate solution, and the reaction product is filtered off with suction and recrystallised from n-propanol.

reactant | 4-(2-benzenesulphonamido-indan-5-yl)-4-oxobutyric acid | 8 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C19H19NO5S
reactant | hydrazine hydrate | 10.4 mmol, 0.53 g | O.NN
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 6-(2-Benzenesulphonamido-indan-5-yl)-4,5-dihydropyridazin-3(2H)-one | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C19H19N3O3S
